US05492802
5-(Furan-2-yl)-2-methylbenzoxazole
5-Amino-2-methylbenzoxazole (7.0 g, 0.05 mole), isopentyl nitrite (20 mL), and furan (230 mL) were combined and heated with stirring at 30° C. in a roundbottom flask equipped with a condenser. After heating for 48 hrs, the reaction mixture was removed from the heat, washed with water, and then evaporated to an oil. Distillation afforded the product (4.0 g, 43% yield), bp 130°-140° C. (0.6 mm). Recrystallization from isopropyl alcohol (14 mL) afforded 3.0 g (32% yield), mp 60° C.

reactant | 5-Amino-2-methylbenzoxazole | 0.05 mole, 7.0 g | NC=1C=CC2=C(N=C(O2)C)C1 | C8H8N2O
reactant | isopentyl nitrite | 20 mL | N(=O)OCCC(C)C | C5H11NO2
solvent | furan | 230 mL | O1C=CC=C1 | C4H4O
product | 5-(Furan-2-yl)-2-methylbenzoxazole | 4.0 g, 43% yield | O1C(=CC=C1)C=1C=CC2=C(N=C(O2)C)C1 | C12H9NO2
